US08729263B2
Step 2: 1-Chloro-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalene-2,7-diol
To a mixture of 7-(benzyloxy)-1-chloro-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol (25 mg, 0.047 mmol) in DCM (1 mL) was added BBr3 (1 M solution in DCM, 0.25 mL, 0.25 mmol) slowly at −78° C. The mixture was stirred at −78° C. for 10 minutes, then warmed to RT and stirred for 1.5 h. The reaction was quenched with MeOH and concentrated. The residue was loaded onto a 1 g SCX column, washed with MeOH and eluted with 2 M NH3 in MeOH. The product-containing fractions were concentrated to give the desired product as a light brown solid (10 mg, 48.2% yield). LCMS Rt=0.54 min [Method Q], MS (M+1)=441.3. 1H NMR (METHANOL-d4) δ 8.17-8.27 (m, 2H), 7.66 (d, J=9.1 Hz, 1H), 7.46 (s, 1H), 7.32 (d, J=10.1 Hz, 1H), 7.00 (d, J=9.1 Hz, 1H), 5.13 (t, J=11.9 Hz, 1H), 3.02 (s, 3H), 1.71-1.79 (m, 2H), 1.59-1.68 (m, 2H), 1.44 (s, 6H), 1.28 (s, 6H).

reactant | 7-(benzyloxy)-1-chloro-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalen-2-ol | 0.047 mmol, 25 mg | C(C1=CC=CC=C1)OC1=C(C=C2C=CC(=C(C2=C1)Cl)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C | C31H35ClN4O2
reactant | BBr3 | 0.25 mmol, 1 M, 0.25 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-Chloro-6-(6-(methyl(2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)naphthalene-2,7-diol | 10 mg, 48.2% yield | ClC1=C(C=CC2=CC(=C(C=C12)O)C=1N=NC(=CC1)N(C1CC(NC(C1)(C)C)(C)C)C)O | C24H29ClN4O2
